US06900354B2
a) [4-(3-Fluoro-benzyloxy)-phenylethynyl]-trimethyl-silane
A well stirred suspension of 4.0 g (12.2 mmol) of 1-(3-fluorobenzyloxy)-4-iodo-benzene, 0.23 g (1.22 mmol) of cuprous iodide and 0.856 mg (1.22 mmol) of dichloro bis(triphenylphosphine) palladium(II) in a mixture of 20 ml THF and 10 ml triethylamine is treated dropwise with 1.44 g (14.6 mmol) of trimethylsilyl acetylene. The reaction is exothermic. The mixture is stirred overnight at RT, treated with saturated aqueous ammonium chloride and extracted three times with ethyl acetate. The organic phase is dried, concentrated and subjected to flash-chromatography (silica gel, cyclohexane) to yield 3.48 g (95%) of a slightly orange oil. NMR (CDCl3; 300 MHz): 0.24 ppm (s, 9H); 5.06 ppm (s, 2H); 6.85-7.45 ppm (m, 8H).

reactant | 1-(3-fluorobenzyloxy)-4-iodo-benzene | 12.2 mmol, 4.0 g | FC=1C=C(COC2=CC=C(C=C2)I)C=CC1 | C13H10FIO
reactant | trimethylsilyl acetylene | 14.6 mmol, 1.44 g | C[Si](C)(C)C#C | C5H10Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | dichloro bis(triphenylphosphine) palladium(II) | 1.22 mmol, 0.856 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | [4-(3-Fluoro-benzyloxy)-phenylethynyl]-trimethyl-silane | FC=1C=C(COC2=CC=C(C=C2)C#C[Si](C)(C)C)C=CC1 | C18H19FOSi
